US06498165B1
2-[3-Phenylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 3-phenylbenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 378.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.60 (s, 1H); 8.44 (br s, 1H); 8.09 (br s, 1H); 7.85 (m, 1H); 7.65 (s, 1H); 7.59 (d, J=7.3 Hz, 2H); 7.56 (m, 1H); 7.41-7.49 (m, 4H); 7.36 (m, 3H); 6.85 (d, J=5.2 Hz, 1H); 5.83 (br s, 1H); 4.83 (d, J=5.9 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 3-phenylbenzylamine | C1(=CC=CC=C1)C=1C=C(CN)C=CC1 | C13H13N
product | 2-[3-Phenylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)C=1C=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC1 | C24H19N5
